US04465678
9.5 g (0.03 mole) of p-tert.-butyl-2-methyl-3-(2,6-dimethyl-morpholin-4-yl)-propiophenone were heated under reflux with 3.6 g (0.05 mole) of hydroxylamine hydrochloride in 80 ml of ethanol for 20 hours. After cooling to 5° C., the mixture was filtered. The filtrate was concentrated, the residue was suspended in dilute sodium hydroxide solution and the suspension was extracted with chloroform. Ethereal hydrochloric acid was added to the organic phase and the reaction product which had precipitated was filtered off. 10.6 g (96% of theory) of p-tert.-butyl-2-methyl-3-(2,6-dimethyl-morpholin-4-yl)-propiophenone oxime hydrochloride of melting point 214° to 16° C. were obtained.

reactant | p-tert.-butyl-2-methyl-3-(2,6-dimethyl-morpholin-4-yl)-propiophenone | 0.03 mole, 9.5 g | C(C)(C)(C)C1=CC=C(C=C1)C(C(CN1CC(OC(C1)C)C)C)=O | C20H31NO2
reactant | hydroxylamine hydrochloride | 0.05 mole, 3.6 g | Cl.NO
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | p-tert.-butyl-2-methyl-3-(2,6-dimethyl-morpholin-4-yl)-propiophenone oxime hydrochloride | 10.6 g, 96% | Cl.C(C)(C)(C)C1=CC=C(C=C1)C(C(CN1CC(OC(C1)C)C)C)=NO | InChI=1S/C20H32N2O2.ClH/c1-14(11-22-12-15(2)24-16(3)13-22)19(21-23)17-7-9-18(10-8-17)20(4,5)6;/h7-10,14-16,23H,11-13H2,1-6H3;1H
